US07253192B2
A] 2-Methyl-2-(2-methyl-4-{1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclopropylmethoxy}-phenoxy)-propionic acid ethyl ester
In analogy to the procedure described in example 24E), reaction of 2-methyl-2-[2-methyl-4-(1-prop-2-ynyl-cyclopropylmethoxy)-phenoxy]-propionic acid ethyl ester (example 35I]) and 1-iodo-4-trifluoromethoxybenzene gave the title compound as light yellow oil.

reactant | 2-methyl-2-[2-methyl-4-(1-prop-2-ynyl-cyclopropylmethoxy)-phenoxy]-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC1(CC1)CC#C)C)C)=O | C20H26O4
reactant | 1-iodo-4-trifluoromethoxybenzene | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
product | 2-Methyl-2-(2-methyl-4-{1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclopropylmethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC1(CC1)CC#CC1=CC=C(C=C1)OC(F)(F)F)C)C)=O | C27H29F3O5
